US07709481B2
7.0 g 4,4-Difluoro-cyclohexanecarbothioic acid amide and 8.46 g 2-Chloro-4-methoxy-3-oxo-butyric acid methyl ester were dissolved in 70 ml ethanol and heated under reflux overnight. The cooled reaction mixture was evaporated under reduced pressure and the resulting residue was purified by silica chromatography with the eluent n-heptane:ethyl acetate=4:1=>2:1 to obtain 4.0 g 2-(4,4-Difluoro-cyclohexyl)-4-methoxymethyl-thiazole-5-carboxylic acid methyl ester as an oil.

reactant | 4,4-Difluoro-cyclohexanecarbothioic acid amide | 7.0 g | FC1(CCC(CC1)C(N)=S)F | C7H11F2NS
reactant | 2-Chloro-4-methoxy-3-oxo-butyric acid methyl ester | 8.46 g | COC(C(C(COC)=O)Cl)=O | C6H9ClO4
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 2-(4,4-Difluoro-cyclohexyl)-4-methoxymethyl-thiazole-5-carboxylic acid methyl ester | 4.0 g | COC(=O)C1=C(N=C(S1)C1CCC(CC1)(F)F)COC | C13H17F2NO3S
